US08022205B2
4-Bromo-phenylamine (172 mg) was dissolved in 1M−HCl aqueous solution (2 ml), and sodium nitrite (82.8 mg) was added at 0° C. After stirring at 0° C. for 30 minutes, a methanol solution of mercaptoacetic acid methyl ester (127 mg) was added, and saturated sodium hydrogencarbonate aqueous solution was further added, to adjust the pH to 5. After stirring at room temperature for 1 hour, stirring was further carried out at 60° C. for 2 hours. This was extracted with ethyl acetate (10 ml×2), and the organic layer was dried over sodium sulfate. After the sodium sulfate was filtered off, the solvent was distilled off under reduced pressure. This was purified by silica gel column chromatography (hexane/ethyl acetate=20/1), to obtain (4-bromo-phenylsulfanyl)-acetic acid methyl ester as a crude product. This was further stirred in 10 ml of methanol and 5M-NaOH aqueous solution at room temperature for 1 hour. After the water vessel was washed with ethyl acetate (30 ml), 1M−HCl aqueous solution was added to adjust the pH to 3. This was extracted with ethyl acetate (30 ml×2), and the organic layer was dried over sodium sulfate. After the sodium sulfate was filtered off, the solvent was distilled off under reduced pressure, to obtain the desired compound as a crude product (151 mg, 62%).

reactant | 4-Bromo-phenylamine | 172 mg | BrC1=CC=C(C=C1)N | C6H6BrN
reactant | sodium nitrite | 82.8 mg | N(=O)[O-].[Na+]
reactant | mercaptoacetic acid methyl ester | 127 mg | COC(CS)=O | C3H6O2S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | HCl | 2 ml | Cl | ClH
solvent | methanol | CO | CH4O
product | (4-bromo-phenylsulfanyl)-acetic acid methyl ester | COC(CSC1=CC=C(C=C1)Br)=O | C9H9BrO2S
